US07342032B2
Part B; 3-(4-Bromophenyl)-2-(2,4-dichlorophenyl)acrylic acid (26.55 gram, 71 mmol) is dissolved in anhydrous toluene (130 mL) and the resulting solution is cooled to 0° C. Triethylamine (7.40 gram, 73 mmol) and diphenylphosphoryl azide (19.8 gram, 72 mmol) are successively added and the resulting mixture Is stirred at 0° C. for 20 minutes and 150 minutes at room temperature. The reaction mixture is poured into water and extracted three times with diethyl ether. The collected organic layers are dried over MgSO4 and the diethyl ether Is removed in vacuo. The resulting toluene layer is slowly added to refluxing toluene (150 mL). t-Butanol is added after 90 minutes and heating at reflux temperature is continued for 1 hour, followed by slow addition of concentrated hydrochloric acid (5 mL). After stirring the resulting solution overnight at 90° C. it is allowed to attain room temperature, washed twice with water, dried over MgSO4, filtered and evaporated in vacuo to give a yellow oil. This oil is crystallised from n-hexane to give 2-(4-bromophenyl)-1-(2,4-dichlorophenyl)ethanone (14.72 gram, 60% yield). Melting point: 69-70° C.

reactant | 3-(4-Bromophenyl)-2-(2,4-dichlorophenyl)acrylic acid | 71 mmol, 26.55 gram | BrC1=CC=C(C=C1)C=C(C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C15H9BrCl2O2
reactant | Triethylamine | 73 mmol, 7.40 gram | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 72 mmol, 19.8 gram | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | water | O | H2O
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-bromophenyl)-1-(2,4-dichlorophenyl)ethanone | 14.72 gram, 60% yield | BrC1=CC=C(C=C1)CC(=O)C1=C(C=C(C=C1)Cl)Cl | C14H9BrCl2O
